2162-12-05 13:06:00 Physician Resident Progress Note
Chief Complaint: diarrhea and weakness
   24 Hour Events:
 MULTI LUMEN - START [**2162-12-4**] 07:54 PM
 ARTERIAL LINE - START [**2162-12-5**] 05:13 AM
   A-line was placed in left radial artery on first pass after several
   attempts in the right to no avail.
   POST-CALL ADDENDUM:
   See admission note for the bulk of overnight events. Beyond this, the
   major event was that Mr [**Known lastname 3239**] had declining O2 sats while laying in
   bed and after some negotiation ended up being able to sit up on the
   side of the bed, which brought his O2 sats up and made him much more
   comfortable.
   History obtained from Patient, Family / Friend, Interpreter
   Allergies:
   History obtained from Patient, Family / Friend, [**Name (NI) 3244**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-12-5**] 12:00 AM
   Vancomycin - [**2162-12-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2162-12-4**] 09:00 PM
   Dextrose 50% - [**2162-12-5**] 12:11 AM
   Furosemide (Lasix) - [**2162-12-5**] 06:15 AM
   Pantoprazole (Protonix) - [**2162-12-5**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Weight loss
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Pain: [**2-23**] Mild
   Pain location: epigastrium
   Flowsheet Data as of  [**2162-12-5**] 01:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 61 (61 - 83) bpm
   BP: 97/53(68) {91/48(62) - 117/88(88)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 26 (10 - 34)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                    708 mL
                                                                  1,196 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                    108 mL
                                                                    786 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  1,130 mL
                                                                     90 mL
   Urine:
                                                                    330 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                  1,106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///17/
   Physical Examination
   Eyes / Conjunctiva: PERRL, Icteric sclera
   Cardiovascular: (S1: Normal), (S2: Normal), Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   significant impairment of inhalation, labors against abdomen
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, skin breakdown/chronic edema changes at shins
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   82 K/uL
   10.7 g/dL
   122 mg/dL
   2.5 mg/dL
   17 mEq/L
   4.9 mEq/L
   54 mg/dL
   101 mEq/L
   133 mEq/L
   29.1 %
   18.8 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
   WBC
   9.5
   18.8
   Hct
   37.6
   29.1
   Plt
   110
   82
   Cr
   1.8
   2.5
   Glucose
   53
   122
   Other labs: PT / PTT / INR:29.1/44.3/3.0, ALT / AST:67/126, Alk Phos /
   T Bili:87/9.9, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   POST-CALL ADDENDUM: plan remains fairly similar to note of a few hours
   prior. Included here for reference.
   This is a 72 year old man with known alcoholic cirrhosis and esophageal
   varices as well as type II diabetes and hypertension, who presents with
   diarrhea, fevers and chills, and severe weakness; consistent with
   sepsis.
   SEPSIS / HYPOTENSION / LEUKOCYTOSIS
   He appears to have a systemic infection, with lead suspects being
   spontaneous bacterial peritonitis (but his WBC on his ascites is too
   low to clearly rule in); cholecystitis (but an ultrasound showed no
   ductal dilatation); or intestinal perforation (but he has no focal
   tenderness, and although the ascites could mask this, one would have
   expected a somewhat more rapid course than the one Mr [**Known lastname 3239**] has
   described. Alternatively, he could have a variceal bleed causing
   weakness and diarrhea, which in the setting of mild fevers from
   inflammation or an unrelated illness could conceivably masquerade as
   sepsis. However, hematocrit was actually up in the evening after he
   came up from the ED; and there is no positive evidence of bleeding.
   -          Continue Zosyn + Vanco for broad empiric coverage; zosyn
   will cover likely SBP bugs; if not improving, could consider meropenem
   for ESBL organisms
   -          Follow up cultures drawn in ED including blood and
   peritoneal fluid; in addition, sending stool cultures including O+P and
   vibrio; UA appears clean
   -          Guaiac all stools
   -          Consider getting CT scan to rule out intestinal perforation;
   holding off for now given poor renal function but if continues to
   worsen could contemplate CT with oral contrast only.
   LIVER FAILURE
   Ongoing cirrhosis with acute bump in bilirubin. Bili bump gives concern
   for obstruction but RUQ US shows no evidence of dilatation of the
   ducts.
   -          Follow liver labs in AM
   -          Liver service consult in AM
   -          Octreotide and midodrine for ?hepatorenal physiology
   -          Albumin daily in SBP protocol
   RENAL FAILURE
   Likely pre-renal in the setting of effective hypovolemia but may more
   specifically be hepatorenal syndrome.
   -          Will start octreotide and midodrine.
   -          Urine lytes.
   ANEMIA
   Low Hct on arrival. Has improved on the floor back up to near-baseline
   levels. Concern is bleeding vs hemolytic anemia, versus the more benign
   explanation of fluid shifts.
   -          type and cross
   -          serial Hcts
   -          transfuse for drop >3 pt or <25
   EtOH
   Per family in past, and as described in PCP notes, concern that patient
   is still drinking alcohol. Level or constancy of drinking unknown. No
   signs of withdrawal at this point.
   -  Monitor clinically for potential withdrawal sxs
   -  CIWA if starting to have signs of withdrawal
   -  follow and observe for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code (discussed by [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] w patient and
   excellent translator today)
   Disposition: ICU for now

2162-12-06 07:55:00 Physician Resident Progress Note
Chief Complaint: Diarrhea and weakness
   24 Hour Events:
 PARACENTESIS - At [**2162-12-5**] 04:30 PM
   3 liters removed, fluid sent for culture and cytology
 INVASIVE VENTILATION - START [**2162-12-5**] 09:31 PM
   s/p paracentesis of 3 liters, with albumin - no SBP
   ciprofloxacin
   GNRs in [**3-26**] bottles
   Stool guaiac positive, indicating GI bleed may have been precipitating
   event
   Ethanol level on admission negative
   Weaned off levophed
   Bladder pressure prior to tap 15, indicating no abdominal compartment
   syndrome
   Given 1.5 L fluid bolus given urine lytes remain prerenal and UOP
   dropped
   Patient respiratory status declined after fluid bolus and he was
   emergenty intubated in settng of bright red blood per mouth. Patient
   started on fentanyl and propofol.
   ABG pH 7.25 s/p intubatation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-12-5**] 08:30 AM
   Ciprofloxacin - [**2162-12-6**] 12:00 AM
   Piperacillin - [**2162-12-6**] 06:02 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Insulin - Humalog - [**2162-12-5**] 06:00 PM
   Pantoprazole (Protonix) - [**2162-12-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Flowsheet Data as of  [**2162-12-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 54 (54 - 72) bpm
   BP: 118/66(85) {89/43(57) - 126/66(88)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 12 (12 - 43)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,579 mL
                                                                    789 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                  2,912 mL
                                                                    789 mL
   Blood products:
                                                                    977 mL
   Total out:
                                                                  3,125 mL
                                                                     31 mL
   Urine:
                                                                    125 mL
                                                                     31 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                  1,454 mL
                                                                    758 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 685 (685 - 685) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/35/172/16/-7
   Ve: 12.7 L/min
   PaO2 / FiO2: 344
   Physical Examination
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   10.2 g/dL
   154 mg/dL
   3.3 mg/dL
   16 mEq/L
   4.4 mEq/L
   68 mg/dL
   100 mEq/L
   130 mEq/L
   28.1 %
   16.6 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
                            [**2162-12-5**]  08:57 PM
                            [**2162-12-5**]  09:09 PM
                            [**2162-12-5**]  10:31 PM
                            [**2162-12-6**]  03:58 AM
                            [**2162-12-6**]  04:20 AM
   WBC
   9.5
   18.8
   16.6
   Hct
   37.6
   29.1
   29.2
   28.1
   Plt
   110
   82
   89
   Cr
   1.8
   2.5
   3.3
   TCO2
   20
   19
   18
   Glucose
   53
   122
   154
   Other labs: PT / PTT / INR:28.1/41.2/2.8, ALT / AST:54/90, Alk Phos / T
   Bili:68/9.8, Differential-Neuts:92.5 %, Lymph:4.1 %, Mono:3.2 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   This is a 72 year old man with known alcoholic cirrhosis and esophageal
   varices as well as type II diabetes and hypertension, who presents with
   diarrhea, fevers and chills, and severe weakness; consistent with
   sepsis.
   HYPOXEMIC RESPIRATORY FAILURE
   In setting of fluids, fluid overload secondary to new fluid bolus,
   hepatorenal syndrome. Hemodialysis or CVVH likely the only way to treat
   this problem, but this would be in the setting of a poor prognosis and
   an earlier decision not to undergo liver transplant (per OMR note).
   Plan to discuss with family; see below re goals of care.
   SEPSIS / HYPOTENSION / LEUKOCYTOSIS
   Now growing gram-negative rods from ED cultures pre-abx. Other post-abx
   cultures not yet growing out anything. No speciation yet. Source is
   unclear. In setting of diarrhea he may have gut translocation;
   cholecystitis remains a possibility given wall thickening of gall
   bladder, although there was no ductal dilation, pt would be a very poor
   surgical candidate; GU source possible but not supported by original
   UA.
   - continue vancomycin, zosyn, ciprofloxacin
   - adding flagyl for complete coverage
   - follow up cultures
   LIVER FAILURE
   Ongoing cirrhosis with acute bump in bilirubin. Bili bump gives concern
   for obstruction but RUQ US shows no evidence of dilatation of the
   ducts. Bilirubin still rising in setting of relatively low liver
   enzymes; however this may reflect end-stage cirrhosis more than lack of
   inflammation.
   - Appreciate liver service recommendations
   - given that pt declined transplant earlier, pt is not a transplant
   candidate
   - continuing octreotide and midodrine to support circulation but
   unlikely to provide substantial improvement as he has worsened on these
   - if further pressor support needed could consider vasopressin for
   possible differential effect on splanchnic circulation
   - further albumin likely would not be of benefit for now
   RENAL FAILURE
   Non fluid-responsive; urine output has not responded to albumin or
   fluids. Picture continuing to be consistent with hepatorenal syndrome;
   no evidence of SBP on second tap; renal failure not c/w ATN.
   GOALS OF CARE
   Given the above it is very unlikely that Mr [**Known lastname 3239**] will be able to
   make a meaningful recovery. We will discuss his prognosis with his
   family today to consider overall goals of care in the setting of end
   stage liver disease and hepatorenal syndrome. He has been full code
   after initially asking for resuscitation but not intubation as his code
   status.
   ANEMIA
   Low Hct on arrival. Has improved on the floor back up to near-baseline
   levels. Concern is bleeding vs hemolytic anemia, versus the more benign
   explanation of fluid shifts. Guaiac positive but not losing blood at a
   brisk place. This is secondary concern currently although if he were to
   stabilize and regain his own blood pressure might want to consider
   restarting beta blocker for prevention of variceal bleed. No indication
   of variceal rupture.
   EtOH
   EtOH level negative on arrival per add-on lab value. Likely no
   indication for CIWA.
   ICU Care
   Nutrition: hold off on tube feeds for now, get nutrition recs for
   regimen
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2162-12-06 09:19:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 year old man with etoh chirrosis known liver mass ?HCC, known
   varicies, admitted with weakness, hypotension,now with high grade GNR
   bacteremia ,  new renal failure. Was weaned off pressors, but developed
   hemoptysis, hypoxemic respiratory failure and intubated o/n.
   24 Hour Events:
   3 liters removed, fluid sent for culture and cytology  - given albumin
   replacement
   Intubated o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-12-5**] 08:30 AM
   Ciprofloxacin - [**2162-12-6**] 12:00 AM
   Piperacillin - [**2162-12-6**] 06:02 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Insulin - Humalog - [**2162-12-5**] 06:00 PM
   Pantoprazole (Protonix) - [**2162-12-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-12-6**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.6
   HR: 58 (54 - 72) bpm
   BP: 116/65(84) {89/43(57) - 126/66(88)} mmHg
   RR: 23 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 12 (12 - 43)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,579 mL
                                                                    835 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                  2,912 mL
                                                                    835 mL
   Blood products:
                                                                    977 mL
   Total out:
                                                                  3,125 mL
                                                                     31 mL
   Urine:
                                                                    125 mL
                                                                     31 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                  1,454 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 685 (685 - 685) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/35/172/16/-7
   Ve: 11.6 L/min
   PaO2 / FiO2: 344
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), decreased at bases
   Abdominal: Distended, Firm, but not tense
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   89 K/uL
   154 mg/dL
   3.3 mg/dL
   16 mEq/L
   4.4 mEq/L
   68 mg/dL
   100 mEq/L
   130 mEq/L
   28.1 %
   16.6 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
                            [**2162-12-5**]  08:57 PM
                            [**2162-12-5**]  09:09 PM
                            [**2162-12-5**]  10:31 PM
                            [**2162-12-6**]  03:58 AM
                            [**2162-12-6**]  04:20 AM
   WBC
   9.5
   18.8
   16.6
   Hct
   37.6
   29.1
   29.2
   28.1
   Plt
   110
   82
   89
   Cr
   1.8
   2.5
   3.3
   TCO2
   20
   19
   18
   Glucose
   53
   122
   154
   Other labs: PT / PTT / INR:28.1/41.2/2.8, ALT / AST:54/90, Alk Phos / T
   Bili:68/9.8, Differential-Neuts:92.5 %, Lymph:4.1 %, Mono:3.2 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Microbiology: [**3-26**] GNR in blood [**Last Name (un) 1426**] [**12-4**], reported [**12-5**].
   Assessment and Plan
   72 year old man with PMH etoh chirossis who presents with high grade
   GNR bacteremia, progressive hepatic failure, acute renal failure and
   now hypoxemic respiratory failure. Prognosis is clearly very grim with
   MODS and underlying hepatic failure. Currently on vanc/zosyn/cipro and
   awaitng  speciatiation. Culutres pending. Possible sources include gut,
   urine or (less likely) lung. Will add flagyl today given diarrhea on
   presentation. Chest/Abdmn/Pelvis CT today. Given rapid clearing of CXR,
   suspect aspiration as etiology of respiratory failure but could have a
   component of fluid overload as well. Will drop tidal volume today to
   6cc/kg IBW, oxygenation seems improved. Renal failure looks more c/w
   HRS than sepsis related ATN - no response to volume so will try to run
   even today. RRT therapy is difficult in this case as he does not appear
   to be a transplant candidate (refused eval in the past, some evidence
   of active drinking). We will arrange family meeting today in regards to
   goals of care. This does not appear to be a surviveable event. Further
   plans as per resident note.
   ICU Care
   Nutrition:
   Comments: On hold for now.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Family meeting today
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2162-12-07 07:58:00 Physician Resident Progress Note
Chief Complaint: diarrhea and weakness --> acute liver failure,
   multiorgan failure
   24 Hour Events:
   - Started flagyl
   - Family meeting with change in code status to DNR/no escalation of
   care -> will change to comfort measures after seen by distant family
   members
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-12-6**] 08:47 AM
   Ciprofloxacin - [**2162-12-6**] 12:30 PM
   Metronidazole - [**2162-12-7**] 12:01 AM
   Piperacillin - [**2162-12-7**] 12:01 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-12-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-12-7**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.4
   HR: 53 (47 - 59) bpm
   BP: 100/52(68) {80/45(56) - 128/71(91)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 6 (6 - 24)mmHg
   Total In:
                                                                  2,359 mL
                                                                    708 mL
   PO:
   TF:
   IVF:
                                                                  2,359 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                     87 mL
                                                                     50 mL
   Urine:
                                                                     87 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                    658 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: ///16/
   Ve: 10.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds under
   vent
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent), feet cool
   and edematous, no pulses palpated through edema
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, c/w large ascites
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Cool on lower extremities; warm at core; on pressors, Jaundice
   Neurologic: Responds to: Unresponsive to voice and mild tactile
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   91 K/uL
   11.4 g/dL
   143 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.4 mEq/L
   88 mg/dL
   97 mEq/L
   127 mEq/L
   30.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
                            [**2162-12-5**]  08:57 PM
                            [**2162-12-5**]  09:09 PM
                            [**2162-12-5**]  10:31 PM
                            [**2162-12-6**]  03:58 AM
                            [**2162-12-6**]  04:20 AM
                            [**2162-12-6**]  03:34 PM
                            [**2162-12-7**]  03:18 AM
   WBC
   9.5
   18.8
   16.6
   16.3
   16.9
   Hct
   37.6
   29.1
   29.2
   28.1
   28.5
   30.8
   Plt
   110
   82
   89
   87
   91
   Cr
   1.8
   2.5
   3.3
   4.0
   4.8
   TCO2
   20
   19
   18
   Glucose
   53
   122
   154
   202
   143
   Other labs: PT / PTT / INR:25.5/39.3/2.5, ALT / AST:49/76, Alk Phos / T
   Bili:70/12.9, Differential-Neuts:73.0 %, Band:15.0 %, Lymph:2.0 %,
   Mono:5.0 %, Eos:1.0 %, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.5
   mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALCOHOL ABUSE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 CIRRHOSIS OF LIVER, ALCOHOLIC
   HYPOTENSION AND PRESSOR REQUIREMENT IN SETTING OF HEPATORENAL SYNDROME
   Hepatorenal syndrome; also with likely sepsis/peri-sepsis; antibiotics
   unlikely to be a solution but rather only ameliorate what is now a
   near-certain decline.
   After discussion with family, team and family agree to no escalation of
   care. They will be trying to get as many of his 15 children in to see
   him today as possible. He is unresponsive and his blood pressure is
   gradually dropping even in the setting of sepsis. Would expect death to
   be imminent, likely today at current rate of dropping BP.
   Maintaining current care, making no increase in pressors, continuing
   antibiotics on the basis that fever is uncomfortable and he may retain
   some sensation and consciousness, will continue to discuss goals of
   care with patient
s family; consider extubation and comfort care if
   family feels that this is in patient
s best interest.
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  standard
   Comments:
   Communication:  Comments:
   Code status: DNR, no escalation of care
   Disposition: ICU

2162-12-07 09:08:00 Physician Attending Progress Note
Chief Complaint: Weakness, Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 year old man with ESLD [**1-23**] etoh chirossis admitted to MICU with HRS
   and respiratory failure. Now DNR/no escalation of care. Awaiting
   arrival of family today.
   24 Hour Events:
   Family Meeting
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-12-7**] 12:01 AM
   Ciprofloxacin - [**2162-12-7**] 07:50 AM
   Metronidazole - [**2162-12-7**] 08:33 AM
   Vancomycin - [**2162-12-7**] 08:50 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-12-7**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-12-7**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 54 (47 - 59) bpm
   BP: 99/51(67) {80/45(56) - 122/67(87)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 6 (6 - 24)mmHg
   Total In:
                                                                  2,359 mL
                                                                  1,300 mL
   PO:
   TF:
   IVF:
                                                                  2,359 mL
                                                                  1,300 mL
   Blood products:
   Total out:
                                                                     87 mL
                                                                     64 mL
   Urine:
                                                                     87 mL
                                                                     64 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                  1,236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: ///16/
   Ve: 10.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Extremities warm
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, resting comfortably
   Labs / Radiology
   11.4 g/dL
   91 K/uL
   143 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.4 mEq/L
   88 mg/dL
   97 mEq/L
   127 mEq/L
   30.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
                            [**2162-12-5**]  08:57 PM
                            [**2162-12-5**]  09:09 PM
                            [**2162-12-5**]  10:31 PM
                            [**2162-12-6**]  03:58 AM
                            [**2162-12-6**]  04:20 AM
                            [**2162-12-6**]  03:34 PM
                            [**2162-12-7**]  03:18 AM
   WBC
   9.5
   18.8
   16.6
   16.3
   16.9
   Hct
   37.6
   29.1
   29.2
   28.1
   28.5
   30.8
   Plt
   110
   82
   89
   87
   91
   Cr
   1.8
   2.5
   3.3
   4.0
   4.8
   TCO2
   20
   19
   18
   Glucose
   53
   122
   154
   202
   143
   Other labs: PT / PTT / INR:25.5/39.3/2.5, ALT / AST:49/76, Alk Phos / T
   Bili:70/12.9, Differential-Neuts:73.0 %, Band:15.0 %, Lymph:2.0 %,
   Mono:5.0 %, Eos:1.0 %, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.5
   mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   72 year old man with ESLD, HRS, hypoxemic respiratory failure - not a
   transplant candidate. Now transitioning to CMO. Awaiting arrival of
   family today. In the meantime, DNR,
    no escalation of care. Continue abx and current support pending
   family. Further plans as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2162-12-08 08:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure, renal failure, liver failure
   24 Hour Events:
   - Extubated
   - Transitioned goals to comfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-12-6**] 08:47 AM
   Ciprofloxacin - [**2162-12-7**] 07:50 AM
   Metronidazole - [**2162-12-7**] 04:06 PM
   Piperacillin - [**2162-12-7**] 06:06 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-12-8**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 68 (51 - 72) bpm
   BP: 88/42(55) {57/35(45) - 99/53(67)} mmHg
   RR: 11 (9 - 25) insp/min
   SpO2: 81%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 25 (6 - 31)mmHg
   Total In:
                                                                  2,207 mL
                                                                    194 mL
   PO:
   TF:
   IVF:
                                                                  2,207 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                     74 mL
                                                                     10 mL
   Urine:
                                                                     74 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,133 mL
                                                                    184 mL
   Respiratory support
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds under
   vent
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent), feet cool
   and edematous, no pulses palpated through edema
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, c/w large ascites
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Cool on lower extremities; warm at core; on pressors, Jaundice
   Neurologic: Responds to: Unresponsive to voice and mild tactile
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   91 K/uL
   11.4 g/dL
   143 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.4 mEq/L
   88 mg/dL
   97 mEq/L
   127 mEq/L
   30.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2162-12-4**]  10:05 PM
                            [**2162-12-5**]  09:13 AM
                            [**2162-12-5**]  08:57 PM
                            [**2162-12-5**]  09:09 PM
                            [**2162-12-5**]  10:31 PM
                            [**2162-12-6**]  03:58 AM
                            [**2162-12-6**]  04:20 AM
                            [**2162-12-6**]  03:34 PM
                            [**2162-12-7**]  03:18 AM
   WBC
   9.5
   18.8
   16.6
   16.3
   16.9
   Hct
   37.6
   29.1
   29.2
   28.1
   28.5
   30.8
   Plt
   110
   82
   89
   87
   91
   Cr
   1.8
   2.5
   3.3
   4.0
   4.8
   TCO2
   20
   19
   18
   Glucose
   53
   122
   154
   202
   143
   Other labs: PT / PTT / INR:25.5/39.3/2.5, ALT / AST:49/76, Alk Phos / T
   Bili:70/12.9, Differential-Neuts:73.0 %, Band:15.0 %, Lymph:2.0 %,
   Mono:5.0 %, Eos:1.0 %, Lactic Acid:2.0 mmol/L, LDH:283 IU/L, Ca++:7.5
   mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   72 year old man with alcoholic cirrhosis admitted to the MICU with
   hepatorenal syndrome and respiratory failure.  Goals of care have been
   transitioned to comfort.  Oxygen saturation now 64% room air.
   - Morphine drip to comfort
   - Ativan as needed for anxiety, discomfort
   - Levsin for secretions
   ICU Care
   Nutrition: Regular diet as tolerated
   Glycemic Control: N/A
   Lines:
   Multi Lumen - [**2162-12-4**] 07:54 PM
   18 Gauge - [**2162-12-4**] 07:55 PM
   Arterial Line - [**2162-12-5**] 05:13 AM
   Prophylaxis:
   DVT: N/A
   Stress ulcer: N/A
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU